US05977105
b) (2R)-1-[6-(Cyclopropylmethoxy)-2-naphthyloxy]-4-(3-pyridyl)-2-butanol
A solution of 2-cyclopropylmethoxy-6-hydroxynaphthalene (0.270 g) in anhydrous N,N-dimethylformamide (10 ml) was added dropwise to sodium hydride (60% dispersion in mineral oil, 0.457 g) that had been previously washed with isohexane (2 ml) under a nitrogen atmosphere. After stirring at 20° C. for 20 minutes a solution of (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-(4-toluenesulfonyloxy)butane (0.46 g) in anhydrous N,N-dimethylformamide (2 ml) was added and the mixture stirred at 60° C. for 90 minutes. After cooling the reaction was poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ether. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (50 ml) and treated with tetrabutylammonium fluoride hydrate (0.48 g). After 1 hour the solution was diluted with water and extracted with ether. The organic extract was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane:methanol (24:1) to give the title compound as a solid (0.124 g) which was recrystallised from ethyl acetate/isohexane.

reactant | 2-cyclopropylmethoxy-6-hydroxynaphthalene | 0.270 g | C1(CC1)COC1=CC2=CC=C(C=C2C=C1)O | C14H14O2
reactant | sodium hydride | 0.457 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[6-(Cyclopropylmethoxy)-2-naphthyloxy]-4-(3-pyridyl)-2-butanol | 0.124 g | C1(CC1)COC=1C=C2C=CC(=CC2=CC1)OC[C@@H](CCC=1C=NC=CC1)O | C23H25NO3
